data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccccc2_2-c2cnccn2_3-C_4-CC(C)C_5-c2ccccc2_6-c2ccccc2_7-c2ccccc2","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(C)C(=O)CC(C)C)(c2ccccc2)c2cnccn2","C(c2ccccc2)(c2ccccc2)C(=O)c2ccccc2"],"products_smiles": ["C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(c2ccccc2)c2ccccc2)C)c2ccccc2"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(c2ccccc2)c2ccccc2)([O-])c2ccccc2","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(=C([O-])CCC(C)C)C)(c2ccccc2)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(C)C(=O)CCC(C)C)(c2ccccc2)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccccc2)(c2cnccn2)C(C)C([O-])=CCC(C)C)(c2ccccc2)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC(C)C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(c2ccccc2)c2ccccc2)C)(c2ccccc2)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(CC(C)C)=C([O-])C(C(c2ccccc2)(c2cnccn2)C1(c2ccccc2)c2ccccc2)C)(c2ccccc2)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(CC(C)C)C(=O)C(C(c2ccccc2)(c2cnccn2)C1(c2ccccc2)c2ccccc2)C)c2ccccc2","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-212_1-C_2-CC_3-CC_4-c1cnccc1_5-c1ccc(OC)cc1_6-CC","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(C)(CC)=C(CC)(c1cnccc1)","O=C(c1ccc(OC)cc1)(CC)"],"products_smiles": ["C1(C)(CC)C(c1ccc(OC)cc1)(CC)OC1(CC)(c1cnccc1)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(C)(CC)C(c1ccc(OC)cc1)(CC)OC1(CC)(c1cnccc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
